US07199239B2
Intermediate 84: 2-Ethyl-4-(hydroxymethyl)phenol
To a solution of 3-ethyl-4-hydroxybenzaldehyde (4.7 g, 26 mmol) in anhydrous THF (150 mL) at 0° C. under N2 was added dropwise 1 M LiAlH4 in Et2O (52 mL, 52.2 mmol). The resulting mixture was stirred at 0° C. for 2 h and then quenched by cautious addition of water and stirred for 15 minutes. The reaction mixture was then absorbed onto silica and loaded onto a silica pad which was washed with EtOAc. The EtOAc washings were collected and concentrated in vacuo to afford the title compound as a colourless oil (3.67 g).

reactant | 3-ethyl-4-hydroxybenzaldehyde | 26 mmol, 4.7 g | C(C)C=1C=C(C=O)C=CC1O | C9H10O2
reactant | LiAlH4 | 1 M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | Et2O | 52.2 mmol, 52 mL | CCOCC | C4H10O
solvent | THF | 150 mL | C1CCOC1 | C4H8O
product | 2-Ethyl-4-(hydroxymethyl)phenol | 3.67 g | C(C)C1=C(C=CC(=C1)CO)O | C9H12O2
